US06172065B2
5,6-Dimethyl-1,4-dihydro-quinoxaline-2,3-dione
To a solution of 3,4-dimethyl-benzene-1,2-diamine (67.5 g, 496 mmol) in 5N HCl (250 mL) was added oxalic acid dihydrate (69.3 g, 550 mmol). The reaction mixture was heated to 100° C. under stirring. The reaction mixture was stirred for 8 hours and cooled to room temperature. The dark precipitate was filtered, washed, and dried.

reactant | 3,4-dimethyl-benzene-1,2-diamine | 496 mmol, 67.5 g | CC1=C(C(=CC=C1C)N)N | C8H12N2
reactant | oxalic acid dihydrate | 550 mmol, 69.3 g | O.O.C(C(=O)O)(=O)O
solvent | HCl | 5N, 250 mL | Cl | ClH
product | 5,6-Dimethyl-1,4-dihydro-quinoxaline-2,3-dione | CC1=C2NC(C(NC2=CC=C1C)=O)=O | C10H10N2O2
